US08748624B2
STEP B: ethyl 3-(5-(2-formyl-3,5-bis(trifluoromethyl)phenyl)picolinamido)propanoate
2-bromo-4,6-bis(trifluoromethyl)benzaldehyde (100 mg, 0.31 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (119 mg, 0.34 mmol), Pd(dppf)Cl2 (23 mg, 0.03 mmol), and 2M K2CO3 (0.31 mL, 0.62 mmol), were dissolved in 1,4-dioxane (1.0 mL) and heated to 100° C. After 70 min the resulting mixture was cooled to room temperature, diluted with DCM, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | 2-bromo-4,6-bis(trifluoromethyl)benzaldehyde | 0.31 mmol, 100 mg | BrC1=C(C=O)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3BrF6O
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 0.34 mmol, 119 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 0.62 mmol, 2M, 0.31 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 23 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(2-formyl-3,5-bis(trifluoromethyl)phenyl)picolinamido)propanoate | C(=O)C1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C20H16F6N2O4
